US08207164B2
b) 1-(3-Bromo-5-nitro-phenyl)-ethanone
1-(3-Bromo-5-nitro-phenyl)-ethanol (12.84 g, 52.2 mmol) was dissolved in dioxane (245 ml) and manganedioxide (31.8 g, 365 mmol) was added. The reaction was refluxed for 17 hrs. The reaction was filtered and solvent was removed under reduced pressure yielding the title compound as yellow solid. 1H-NMR (500 MHz, DMSO-d6): 8.64 (s, 1H), 8.58 (s, 1H), 8.53 (s, 1H), 2.70 (s, 3H); GC/MS: 243 [(M)+].

reactant | 1-(3-Bromo-5-nitro-phenyl)-ethanol | 52.2 mmol, 12.84 g | BrC=1C=C(C=C(C1)[N+](=O)[O-])C(C)O | C8H8BrNO3
solvent | dioxane | 245 ml | O1CCOCC1 | C4H8O2
product | 1-(3-Bromo-5-nitro-phenyl)-ethanone | BrC=1C=C(C=C(C1)[N+](=O)[O-])C(C)=O | C8H6BrNO3
